US06316444B1
Step E: (S,S)-1-Benzyloxycarbonyl-2-(1-aminoethyl)-4-tert-butyloxycarbonylpiperazine
(S,S)-1-Benzyloxycarbonyl-2-(1-azidoethyl)-4-tert-butyloxycarbonylpiperazine (8.1 g) was dissolved in 255 mL of 9:1 THF-water and triphenylphosphine (10.9 g) was added. The mixture was heated to 75° C. and stirred at this temperature overnight. The reaction mixture was cooled, diluted with 286 mL of CH2Cl2, poured into 250 mL of 1N HCl, and extracted with 750 mL of CH2Cl2. The aqueous phase was basified to pH>10 by addition of 5N NaOH, then extracted with 5×750 mL of EtOAc. The combined organic extracts were washed with 750 mL of brine, dried over Na2SO4, and concentrated. The residue was purified by flash chromatography using 90:10 ethyl acetate-methanol to yield 3.07 g of the title compound. Mass spectrum (ESI) 308.3 (M−55).

reactant | (S,S)-1-Benzyloxycarbonyl-2-(1-azidoethyl)-4-tert-butyloxycarbonylpiperazine | 8.1 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)[C@H](C)N=[N+]=[N-] | C19H27N5O4
reactant | triphenylphosphine | 10.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | HCl | 1N, 250 mL | Cl | ClH
solvent | THF water | 255 mL | C1CCOC1.O
solvent | CH2Cl2 | 286 mL | C(Cl)Cl | CH2Cl2
product | (S,S)-1-Benzyloxycarbonyl-2-(1-aminoethyl)-4-tert-butyloxycarbonylpiperazine | 3.07 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)[C@H](C)N | C19H29N3O4
